US04642308
The procedure is similar to that described in Example 1, but starting with 2,6-difluorobenzoic acid (12.1 g), N,N'-carbonyldiimidazole (12.3 g) and 2-amino-7-chloro-1,8-naphthyridine (8.5 g). The product produced by precipitation in water (6.8 g; m.p. 215° C.) is dissolved in boiling ethanol (450 cc). After 4 hours' cooling at 4° C., the crystallised solid is separated by filtration washed with ethanol (3×15 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-2,6-difluorobenzamide (7.3 g) is produced, m.p. 242° C.

reactant | 2,6-difluorobenzoic acid | 12.1 g | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8.5 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | ethanol | 450 cc | C(C)O | C2H6O
solvent | water | 6.8 g | O | H2O
product | N-(7-chloro-1,8-naphthyridin-2-yl)-2,6-difluorobenzamide | 7.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=C(C=CC=C1F)F)=O | C15H8ClF2N3O
